US09306110B2
Materials. 1-methyl-2-pyrrolidinone (99.5%, Aldrich), 1-octadecene (90%, Aldrich), acetonitrile (99.9%, Fisher Chemical), triphenylbismuth (99%, Strem), CdO (99.5%, Aldrich), diphenyl ether (99%, Aldrich), methanol (ACS grade, VWR), oleic acid (90%, Aldrich), oleylamine (70% Aldrich), selenium (99.99%, Strem), trioctylphosphine (90%, Aldrich), trioctylphosphine oxide (99%, Strem), toluene (ACS grade, VWR). 0.2M Se-ODE was prepared by dissolving selenium powder in 1-octadecene at 200° C. for 2 hr under inert atmosphere according to the procedure by Bullen et al.[42]; trioctylphosphine oxide (TOPO) was recrystallized from acetonitrile prior to use; di-n-octylphosphinic acid (DOPA) was synthesized according to the procedure reported by Wang et al.[1]; a stock suspension of 2 mM triphenylbismuth (BiPh3) in 1-octadecene was prepared in advance.

reactant | triphenylbismuth | C1(=CC=CC=C1)[Bi](C1=CC=CC=C1)C1=CC=CC=C1
reactant | diphenyl ether | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
reactant | oleic acid | C(CCCCCCC\C=C/CCCCCCCC)(=O)O | C18H34O2
reactant | oleylamine | C(CCCCCCC\C=C/CCCCCCCC)N | C18H37N
reactant | selenium | [Se] | Se
reactant | trioctylphosphine | C(CCCCCCC)P(CCCCCCCC)CCCCCCCC | C24H51P
reactant | trioctylphosphine oxide | C(CCCCCCC)P(CCCCCCCC)(CCCCCCCC)=O | C24H51OP
reactant | triphenylbismuth | 2 mM | C1(=CC=CC=C1)[Bi](C1=CC=CC=C1)C1=CC=CC=C1
solvent | 1-octadecene | C=CCCCCCCCCCCCCCCCC | C18H36
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | methanol | CO | CH4O
solvent | acetonitrile | C(C)#N | C2H3N
solvent | 1-methyl-2-pyrrolidinone | CN1C(CCC1)=O | C5H9NO
product | di-n-octylphosphinic acid | C(CCCCCCC)P(O)(=O)CCCCCCCC | C16H35O2P
